US05563280
Preparation of 4-hydroxy-8-nitrocoumarin
A solution of NaH (6.94 g, 0.291 mole) in dimethoxyethane is cooled using dry ice/acetone cooling, treated dropwise with diethyl malonate (46.6 g, 0.29 mole), allowed to warm to 0° C., treated dropwise with a solution of 3-nitrosalicylyl chloride (19.5 g, 0.10 mole) in dimethoxyethane, allowed to warm to room temperature, stirred for 3 hours at room temperature, heated at 60° C. until reaction is complete by HPLC analysis, cooled to room temperature, poured onto a mixture of ice water and methylene chloride and stirred for about 0.5 hour. The phases are separated, the aqueous phase is acidified with 50% HCl to pH 5 and filtered. The filtercake is dispersed in acetic acid, heated and filtered. This filtercake is air-dried and 8.6 g is dispersed in dimethyl sulfoxide, heated at 100° C. for about 2 hours, cooled to room temperature, poured onto ice water and filtered. The solid is taken up in acetonitrile, filtered hot, cooled and filtered to give the title product, mp 242°-245° C., identified by IR, 1HNMR and mass spectral analyses.

reactant | NaH | 0.291 mole, 6.94 g | [H-].[Na+]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | diethyl malonate | 0.29 mole, 46.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-nitrosalicylyl chloride | 0.10 mole, 19.5 g | [N+](=O)([O-])C1=C(C(C(Cl)Cl)=CC=C1)O | C7H5Cl2NO3
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-8-nitrocoumarin | OC1=CC(OC2=C(C=CC=C12)[N+](=O)[O-])=O | C9H5NO5
